US07960395B2
f) 2-{(1S)-1-[(7-{[(1R)-1-(Hydroxymethyl)-3-methylbutyl]amino}-2-oxo-2,3-dihydro[1,3]thiazolo[4,5-d]pyrimidin-5-yl)thio]ethyl}isonicotinonitrile
The title compound was prepared according to General Method G with addition of DIPEA (2 equiv.). Starting from 5,5′-dithiobis[7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one] (64 mg, 0.096 mmol) and 2-((R)-1-chloro-ethyl)-isonicotinonitrile (32 mg, 0.192 mmol) the title compound (39 mg) was obtained as a diastereomeric mixture. Purification by preparative HPLC (Column: Kromasil-C18) yielded 15 mg (36% yield) of the title compound with 98% de.

reactant | DIPEA | 2 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | 5,5′-dithiobis[7-{[(1R)-1-(hydroxymethyl)-3-methylbutyl]amino}[1,3]thiazolo[4,5-d]pyrimidin-2(3H)-one] | 0.096 mmol, 64 mg | OC[C@@H](CC(C)C)NC=1C2=C(N=C(N1)SSC=1N=C(C3=C(N1)NC(S3)=O)N[C@H](CC(C)C)CO)NC(S2)=O | C22H30N8O4S4
reactant | 2-((R)-1-chloro-ethyl)-isonicotinonitrile | 0.192 mmol, 32 mg | Cl[C@H](C)C=1C=C(C#N)C=CN1 | C8H7ClN2
product | 2-{(1S)-1-[(7-{[(1R)-1-(Hydroxymethyl)-3-methylbutyl]amino}-2-oxo-2,3-dihydro[1,3]thiazolo[4,5-d]pyrimidin-5-yl)thio]ethyl}isonicotinonitrile | 15 mg, 36% yield | OC[C@@H](CC(C)C)NC=1C2=C(N=C(N1)S[C@@H](C)C=1C=C(C#N)C=CN1)NC(S2)=O | C19H22N6O2S2
